US05811439
The same procedures used in Example 1 were repeated except for using 1.02 g of indole-4-carbaldehyde and (2-methyl-2-hepten-6-yl) methanesulfonate instead of the benzyl bromide used in Example 1 to give 1.36 g of 1-(2-methyl-2-hepten-6-yl)indole-4-carbaldehyde as a yellow oily substance. The yield thereof was found to be 76%.

reactant | indole-4-carbaldehyde | 1.02 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | (2-methyl-2-hepten-6-yl) methanesulfonate | CS(=O)(=O)OC(CCC=C(C)C)C | C9H18O3S
product | 1-(2-methyl-2-hepten-6-yl)indole-4-carbaldehyde | 1.36 g | CC(C)=CCCC(C)N1C=CC=2C(=CC=CC12)C=O | C17H21NO
